US06500503B2
Preparation of 1-(3,4-Difluorophenyl)-2-[4-(trans-4-pentylcyclohexyl)cyclohexylidene]ethane
43.01 g (89 mmol) of (3,4-difluorophenyl) ethyltriphenylphosphonium bromide were charged into a 300 ml three-necked flask in a nitrogen atomosphere and dried, and 74 ml of THF were added. The mixture was cooled to −30° C, a solution of 9.99 g (89 mmol) of potassium-t-butoxide in 70 ml of THF was added dropwise over a period of 15 minutes and the mixture was stirred for 1 hr. To this mixture was added dropwise a solution of 18.53 g (74 mmol) of 4-(trans-4-pentylcyclohexyl)cyclohexanone in 74 ml of THF over a period of 25 minutes. The mixture was stirred as such overnight and raised to room temperature. Water and toluene were added, the precipitate was filtered through Celite, and an organic layer and an aqueous layer were separated. The aqueous layer was extracted with toluene, an extract combined with the organic layer was washed with water, and dried over anhydrous magnesium sulfate. Triphenylphosphine oxide in the extract was filtered off, the solvent was distilled off and the solution was condensed. The concentrate was purified by column chromatography (elution solvent: heptane:ethyl acetate=20:1) to obtain 19.67 g of the eluate. Recrystallization at −30° C. from 50 ml of heptane-trace amount of solmix gave 14.31 g of the title compound (52%, Cr 38.4-38.5 Iso).

reactant | (3,4-difluorophenyl) ethyltriphenylphosphonium bromide | 89 mmol, 43.01 g | [Br-].FC=1C=C(C=CC1F)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 89 mmol, 9.99 g | CC(C)([O-])C.[K+]
reactant | 4-(trans-4-pentylcyclohexyl)cyclohexanone | 74 mmol, 18.53 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1CCC(CC1)=O | C17H30O
reactant | Water | O | H2O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 74 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(3,4-Difluorophenyl)-2-[4-(trans-4-pentylcyclohexyl)cyclohexylidene]ethane | 14.31 g, 52% | FC=1C=C(C=CC1F)CC=C1CCC(CC1)[C@@H]1CC[C@H](CC1)CCCCC | C25H36F2
